US08445674B2
B) 2-{4-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-succinic acid 4-tert-butyl ester 1-methyl ester
A solution of 0.50 g (1.30 mmol) of {4-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-acetic acid methyl ester in 25 ml of THF was treated slowly at −78° C. with 1.48 ml (1.48 mmol) of lithium hexamethyldisilylazide 1M in THF. After 30 min at −78° C., a solution of 0.67 ml (4.54 mmol) of tert-butyl bromoacetate in 2.5 ml of THF was added dropwise. The solution was stirred at −78° C. for 5 h, poured on cooled aqueous 10% KHSO4 solution and extracted with Et2O (3×). The organic phases were washed with aqueous 10% NaCl, dried (Na2SO4) and evaporated. The residue was purified on a SiO2-column (n-heptane/EtOAc 1:1 to 2:3) to afford the titled compound in 18% yield as light yellow foam. MS: 499.1 (MH+, 2Cl).

reactant | {4-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-acetic acid methyl ester | 1.30 mmol, 0.50 g | COC(CN1CCN(CCC1=O)C(\C=C\C1=CC(=C(C=C1)Cl)Cl)=O)=O | C17H18Cl2N2O4
reactant | tert-butyl bromoacetate | 4.54 mmol, 0.67 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
product | 2-{4-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-succinic acid 4-tert-butyl ester 1-methyl ester | 18% yield | COC(C(CC(=O)OC(C)(C)C)N1CCN(CCC1=O)C(\C=C\C1=CC(=C(C=C1)Cl)Cl)=O)=O | C23H28Cl2N2O6
